US09353107B2
Step-iii: (S)-1-(4-(6-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-3-yl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-(piperazin-1-yl)pyridin-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (100 mg. 0.164 mmol) was alkylated using (S)-2-methyloxirane (18 mg, 0.329 mmol), DIPEA (58 μL, 0.329 mmol) and ethanol (10 mL) to get 100 mg (91.7%) of the titled compound.

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-(piperazin-1-yl)pyridin-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.164 mmol, 100 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=NC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C33H30FN7O2S
reactant | (S)-2-methyloxirane | 0.329 mmol, 18 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 0.329 mmol, 58 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-1-(4-(6-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-3-yl)piperazin-1-yl)propan-2-ol | 100 mg, 91.7% | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=N3)N3CCN(CC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C36H36FN7O3S
